Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: "My therapist sent me here... I suppose I made 
a
suicidal gesture."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note 
dated ___ and Dr. ___ admission note dated ___. 
.
Briefly, this is an ___ year old man, previously diagnosed with 
depression, borderline personality disorder, s/p numerous 
psychiatric hospitalizations, recently discharged from ___ 
___, who presented to ___ ED on a ___ 
due to concern for worsening depression, suicidal ideation. 
.
Upon initial interview, patient reported he came to the ED after 
seeing his therapist due to the events over the past several 
days. he reported he was fighting with his mother on ___, 
walked out of the house and went to a rock climbing gym, where 
he purchased a rope to hang himself and put it in the garage. 
His mother found the rope yesterday and made an appointment with 
his
therapist. The patient reported he has been arguing with his 
mother regarding school, stating he is currently a senior but 
does not fit in with the structure of the school and would like 
to learn on his own. Reported feeling very unmotivated and 
reported intermittent suicidal ideation when thinking about
school and his future. However, denied current suicidal 
ideation. 
.
Per collateral obtained in the ED from his mother, ___ 
(___): patient has been battling severe depression and 
SI for past ___ years. He is in the hospital this time because 
he bought some rope to try to hang himself. In the past, he has 
tried to breath in car fumes in the garage. Patient reportedly
purchased the rope a few days ago, and he hid it in the garage. 
Mom found out because her sister said she saw him going into the 
garage a lot, which is odd. Mom checked the garage and found the 
rope. She took the room. He later asked mom for it because he 
wanted to hang himself. He stated, "Now I will have to try to do 
something else if you don't give it to me." 
. 
She called her sister who he is close with and she sat with him 
and he calmed down. He went to ___ to stay with 
his aunt and agreed to see his therapist today. She notes that 
his has seemed withdrawn and flat. 
.
Per the therapist ___: Ms. ___ confirms much of the 
above. The patient recently spent 8 weeks at ___ residential 
___. He discharged ___ weeks ago and has been having 
difficulty. His transition back to school has not been going 
well. On ___ night he felt his house (during a snowstorm)
to buy rope from the ___ climbing gym to hang himself. His 
mother found the rope. He later texted his mother asked where 
the rope is because he wanted to hang himself. His mother 
scheduled an emergency appointment for the patient with her 
today. During the interview the patient made multiple 
provocative statements such as "you're pushing me closer to 
suicide." She feels like it
is not safe for him to be discharged. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints 
. 
Upon interview with Mr. ___, who was cooperative but also a 
somewhat vague historian who was oddly related, he confirmed the 
history provided in the ED, stating he came to the hospital 
because "my therapist sent me here because I suppose I made a 
suicidal gesture." Confirmed he had been at a ___ residential 
program for 9 weeks for DBT "to learn more coping skills for BPD
and depression" and was discharged about a month ago. When asked 
what he thought about the diagnosis of BPD, he stated, "I don't 
give it much thought." Reported he has been worrying quite a bit 
about his future, "I recently dropped out of high school and now 
I'm realizing a lot of doors are being closed because of that 
piece of paper." 
.
Patient reported he has been struggling with what he described 
as depression since his parents separated approximately ___ years 
ago. Stated that following their divorce he started questioning 
the point of relationships, marriage, and life from a 
philosophical perspective. Denied feeling depressed all the 
time, but stated that his mother is "sensitive and reactive like 
me" and that his
moods tends to follow hers. Stated he has been stressed 
regarding school, noting his grades have been dropping to 
numerous incompletes since he has not been in school with "a 
gentleman's B+'s." Stated that he has been having difficulty 
focusing, stating he had cut recently in order to help him 
focus. 
.
Patient had difficulty describing his depression, describing it 
primarily as lack of motivation, not getting out of bed and not 
wanting to do anything. He then contradicts himself, stating he 
has plenty of interests including music and rock climbing. He 
also reports he is interested in philosophy and reads V. 
___, and other authors, stating that as a result "I 
came to the conclusion of choice... it's hard to prove that we 
have choice and having the choice to die is the ultimate 
choice." In this setting, the patient reports he has been 
chronically suicidal for the past ___ years, stating his 
suicidality relates primarily to the philosophical view on 
choice. However, reports that he is ambivalent about suicide, 
stating he fears death because of his "former religion" stating 
he was Catholic and he also sees a lot of reasons to live and 
enjoys life. 
.
Of note, following his discharge from ___, 
patient reported he returned home to live with his mother, which 
he described as "fine some times, not fine at other times." 
Denied persistent depression following discharge, stating he has 
been sleeping about ___ hours a night with "okay" concentration.
Denies changes in appetite, suicidal ideation. Stated he did 
take himself off of Prozac because he does not want to be on 
medications. Reported he got into an argument with his mother on 
the ___ prior to presentation and went to a rock climbing 
store and bought a rope, stating he was thinking of hanging 
himself but did not because he thinks he wants to live. Mother 
reportedly found the rope, called his therapist, who referred 
him to ___ ED. 
.
Of note, the patient did confirm that his cousin, whom he used 
to be close with recently completed suicide approximately a week 
ago. Patient stated that he "always finds it interesting when 
someone takes their life." However, denied feeling sad or upset 
about this loss.
.
At this time, patient denies suicidal ideation or desire to harm 
himself.  Denies history of psychosis including ideas of 
reference, auditory or visual hallucinations, thought insertion 
or broadcasting, paranoia. Denied history of manic symptoms 
including decreased need for sleep, increased impulsivity,
grandiosity, excessive amounts of energy. Denies history of 
anxiety and denied OCD symptoms. Reported alcohol use 
approximately once a month, where he will drink approximately 5 
drinks becoming intoxicated. Denies illicit drug use.
.
Patient states he does not want to be in the hospital at this 
time, he wishes to return home as soon as possible. We did 
discuss the risks and benefits of initiation of an 
antidepressant or a second generation antipsychotic which he 
declined at this time.
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: Depression, borderline personality disorder 
- SA/SIB: denies/reports history of cutting in the past with 
last
episode about ___ months ago. Reports he did it to help him 
focus
- Hospitalizations: s/p 5 prior psychiatric hospitalizations 
with
patient reporting his first was around age ___ or ___ years at
___. Reports he has also been hospitalized at
___ twice, ___ twice. 
- Psychiatrist: Dr. ___ at ___ in ___ 
- Therapist: ___ 
- Medication Trials: Prozac, Abilify 
.
Past Medical History: 
- Reports multiple prior concussions while playing football
.
Medications: None 
.
Allergies: NKDA

 
Social History:
Substance History:  
Alcohol: Reports drinking ~5 drinks about 1/month during 
"celebrations"
Illicits: denies
Tobacco: denies
.
Social History: ___
Family History:
Family History: 
- Diagnoses: reports aunt with depression 
- ___: reported cousin on paternal side completed suicide 2 
weeks ago. Stated approximately ___ year ago, another cousin 
completed suicide. 
- Addictions: reports father suffers from addiction but does not 
know from what. 
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T:97.8 , BP:117/75 , HR:73 , R:20 , O2 sat: 97% on RA
.
General: Young male in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Tattoo of moon on right arm; No rashes, abrasions, scars,
or lesions. 
.
Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 1+ and symmetrical patellar
reflexes. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
.
Cognition: 
Mental Status Examination: 
A/B: Appears stated age, dressed casually with good hygiene and
grooming, calm, cooperative, oddly related on examination, 
averts
eye contact at times, no psychomotor agitation or retardation
noted
S: normal rate, volume, prosody 
M: "fine" 
A: superficially euthymic, restricted range, inappropriate to
situation 
TC: see above 
TP: mostly linear, goal oriented
C: awake, alert and oriented x3 
M: short and long term grossly intact
I/J: limited/limited

 
Pertinent Results:
___ 06:05PM URINE  HOURS-RANDOM
___ 06:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 06:05PM URINE  RBC-3* WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 06:05PM URINE  MUCOUS-RARE*
___ 02:50PM   GLUCOSE-108* UREA N-16 CREAT-1.0 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-25 ANION GAP-14
___ 02:50PM   estGFR-Using this
___ 02:50PM   ALT(SGPT)-22 AST(SGOT)-21 ALK PHOS-77 TOT 
BILI-1.5
___ 02:50PM   LIPASE-21
___ 02:50PM   ALBUMIN-4.2
___ 02:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:50PM   WBC-5.5 RBC-5.16 HGB-16.0 HCT-47.1 MCV-91 
MCH-31.0 MCHC-34.0 RDW-11.9 RDWSD-39.8
___ 02:50PM   NEUTS-50.4 ___ MONOS-12.0 EOS-2.2 
BASOS-0.4 AbsNeut-2.79 AbsLymp-1.93 AbsMono-0.66 AbsEos-0.12 
AbsBaso-0.02
___ 02:50PM   PLT COUNT-237
 
Brief Hospital Course:
#. Legal/Safety: Patient admitted to Deaconess on ___ ___, 
on admission, the patient signed a conditional voluntary 
agreement, which was accepted. Of note, he maintained his safety 
throughout his hospitalization on 15 minute checks and did not 
require physical or chemical restraints. 
.
#. Adjustment disorder
Mr. ___ is a ___ year old male with a history of depression, 
borderline personality disorder, and a recent admission to a 
residential program at ___ who was sent to ___ ED on a 
___ by his therapist for SI. On presentation patient 
endorsed symptoms of depression with suicidal thoughts and plans 
of hanging himself; he later denied any intention of suicide 
saying he simply hoped to frighten his mother by purchasing and 
allowing her to find a rope. The patient endorsed anxiety around 
the possibility of returning to school acknowledging a fear of 
failure, considering himself average in comparison to his 
high-achieving peers, chronically self-sabotaging by forgoing a 
number or opportunities to ensure that he would not have the 
chance to fail- or succeed. Of note, mental status examinations 
were notable for consistently superficially euthymic affect with 
patient frequently demonstrating a good sense of humor. Thought 
process was also consistently linear, goal and future oriented. 
His outpatient therapist and psychiatrist were contacted who 
shared their concerns for bipolar disorder and chronic 
suicidality though the patient showed no evidence of overt mood 
or thought disorder on exam and formal neuropsychological 
testing revealed no evidence of personality disorder or 
psychosis, final write up is pending at time of discharge. 
Though he was offered medication having previously been 
prescribed Prozac in the past he declined initiation of 
antidepressants or hydroxyzine for anxiety. He also refused low 
doses of antipsychotics. A family meeting was held in which 
patient acknowledged the anger he has held following his parents 
divorce which may be motivating his self-destructive tendencies. 
He was encouraged to communicate his feelings to his therapist 
and family and to take ownership of the opportunities and 
choices he currently enjoys. Was goal- and future-oriented with 
plans to work and volunteer after receiving his diploma.
.
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. While his 
participation in group therapy was minimal the patient was noted 
to interact appropriately with peers and staff. Of note, we 
encouraged the patient to attend a partial program or an IOP 
following discharge, which he declined.
.
#. Proteinuria and microscopic hematuria noted on routine UA.  
Patient asymptomatic. Will follow up with his PCP.
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting an antidepressant, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and declined to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
admission of suicidality with apparent intent in plan which he 
eventually denied.  Their static factors noted at that time 
include recent discharge from an inpatient psychiatric unit, 
male gender, age, and marital status; the modifiable risk 
factors, including polarized thinking and lack of social 
supports, were addressed via challenging the patient's 
all-or-nothing thinking and involving family in his 
hospitalization and discharge.  Finally, the patient is being 
discharged with many protective risk factors, including lack of 
suicidal ideation, no history of suicide attempts, no access to 
weapons, engagement in outpatient treatment, and familial 
support. Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.
.
Our Prognosis of this patient is fair.
.
MODIFIABLE RISK FACTORS
Medication noncompliance, social withdrawal, limited social 
supports, limited coping skills, lack of purpose, polarized 
thinking, and recent (financial/physical/personal) loss.
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder

 
Discharge Condition:
VS:97.7 | BP 122/79 | HR 93 | RR 18 | SpO2 96% RA 
Appearance: No apparent distress, appears somewhat older than
stated age, casually groomed, appropriately dressed wearing
dark colored shirt and loose red checkered flannel pants. 
Behavior: Calm, cooperative, appropriate eye contact. 
Mood and Affect: 'Fine' /euthymic, superficially bright.
Thought Process: Linear, coherent, goal-oriented.
Thought Content: Denies current SI, HI, and AVH. No evidence of
delusions or paranoia.
Judgment and Insight: Fair/fair.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___